* /home/ashwini.kumar2020/eSim-Workspace/servo_tracking_ADC1/servo_tracking_ADC1.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Thu 06 Oct 2022 05:46:52 PM IST

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U2  Net-_U2-Pad1_ Net-_U1-Pad2_ Net-_U2-Pad3_ Net-_U2-Pad4_ Net-_U2-Pad5_ Net-_U2-Pad6_ ashwini_updown_counter4bit		
v5  Net-_U8-Pad1_ GND pulse		
v3  VDD GND DC		
scmode1  SKY130mode		
X2  VDD VSS Net-_SC1-Pad2_ GND Vout GND avsd_opamp		
v4  GND VSS DC		
X1  VDD VSS Vout in comp GND avsd_opamp		
SC3  Net-_SC1-Pad2_ Net-_SC2-Pad1_ rin sky130_fd_pr__res_generic_pd		
SC2  Net-_SC2-Pad1_ Q3 rin sky130_fd_pr__res_generic_pd		
SC5  Net-_SC5-Pad1_ Q2 rin sky130_fd_pr__res_generic_pd		
SC6  Net-_SC4-Pad2_ Net-_SC5-Pad1_ rin sky130_fd_pr__res_generic_pd		
SC8  Net-_SC8-Pad1_ Q1 rin sky130_fd_pr__res_generic_pd		
SC9  Net-_SC10-Pad1_ Net-_SC8-Pad1_ rin sky130_fd_pr__res_generic_pd		
SC12  Net-_SC10-Pad2_ Net-_SC11-Pad1_ rin sky130_fd_pr__res_generic_pd		
SC11  Net-_SC11-Pad1_ Q0 rin sky130_fd_pr__res_generic_pd		
SC4  Net-_SC1-Pad2_ Net-_SC4-Pad2_ rin sky130_fd_pr__res_generic_pd		
SC7  Net-_SC4-Pad2_ Net-_SC10-Pad1_ rin sky130_fd_pr__res_generic_pd		
SC10  Net-_SC10-Pad1_ Net-_SC10-Pad2_ rin sky130_fd_pr__res_generic_pd		
SC14  Net-_SC13-Pad2_ GND rin sky130_fd_pr__res_generic_pd		
SC13  Net-_SC10-Pad2_ Net-_SC13-Pad2_ rin sky130_fd_pr__res_generic_pd		
SC1  Vout Net-_SC1-Pad2_ rin sky130_fd_pr__res_generic_pd		
v2  rin GND DC		
U3  Vout plot_v1		
U1  comp Net-_U1-Pad2_ adc_bridge_1		
U4  Net-_U2-Pad3_ Q3 dac_bridge_1		
U5  Net-_U2-Pad4_ Q2 dac_bridge_1		
U6  Net-_U2-Pad5_ Q1 dac_bridge_1		
U7  Net-_U2-Pad6_ Q0 dac_bridge_1		
U8  Net-_U8-Pad1_ Net-_U2-Pad1_ adc_bridge_1		
U9  in plot_v1		
v1  in GND sine		
U10  comp plot_v1		

.end
