* /home/ashwini.kumar2020/esim-workspace/servo_tracking_adc1/servo_tracking_adc1.cir

.include avsd_opamp.sub
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
* u2  net-_u2-pad1_ net-_u1-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ ashwini_updown_counter4bit
v5  net-_u8-pad1_ gnd pulse(0 1.8 0.1n 0.1n 0.1n 50m 100m)
v3 vdd gnd  dc 1
* s c m o d e
x2 vdd vss net-_sc1-pad2_ gnd vout gnd avsd_opamp
v4 gnd vss  dc 1
x1 vdd vss vout in comp gnd avsd_opamp
xsc3 net-_sc1-pad2_ net-_sc2-pad1_ rin sky130_fd_pr__res_generic_pd 
xsc2 net-_sc2-pad1_ q3 rin sky130_fd_pr__res_generic_pd 
xsc5 net-_sc5-pad1_ q2 rin sky130_fd_pr__res_generic_pd 
xsc6 net-_sc4-pad2_ net-_sc5-pad1_ rin sky130_fd_pr__res_generic_pd 
xsc8 net-_sc8-pad1_ q1 rin sky130_fd_pr__res_generic_pd 
xsc9 net-_sc10-pad1_ net-_sc8-pad1_ rin sky130_fd_pr__res_generic_pd 
xsc12 net-_sc10-pad2_ net-_sc11-pad1_ rin sky130_fd_pr__res_generic_pd 
xsc11 net-_sc11-pad1_ q0 rin sky130_fd_pr__res_generic_pd 
xsc4 net-_sc1-pad2_ net-_sc4-pad2_ rin sky130_fd_pr__res_generic_pd 
xsc7 net-_sc4-pad2_ net-_sc10-pad1_ rin sky130_fd_pr__res_generic_pd 
xsc10 net-_sc10-pad1_ net-_sc10-pad2_ rin sky130_fd_pr__res_generic_pd 
xsc14 net-_sc13-pad2_ gnd rin sky130_fd_pr__res_generic_pd 
xsc13 net-_sc10-pad2_ net-_sc13-pad2_ rin sky130_fd_pr__res_generic_pd 
xsc1 vout net-_sc1-pad2_ rin sky130_fd_pr__res_generic_pd 
v2 rin gnd  dc 1.8
* u3  vout plot_v1
* u1  comp net-_u1-pad2_ adc_bridge_1
* u4  net-_u2-pad3_ q3 dac_bridge_1
* u5  net-_u2-pad4_ q2 dac_bridge_1
* u6  net-_u2-pad5_ q1 dac_bridge_1
* u7  net-_u2-pad6_ q0 dac_bridge_1
* u8  net-_u8-pad1_ net-_u2-pad1_ adc_bridge_1
* u9  in plot_v1
v1  in gnd sine(0.5 0.2 0.1 0 0)
* u10  comp plot_v1
a1 [net-_u2-pad1_ ] [net-_u1-pad2_ ] [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ ] u2
a2 [comp ] [net-_u1-pad2_ ] u1
a3 [net-_u2-pad3_ ] [q3 ] u4
a4 [net-_u2-pad4_ ] [q2 ] u5
a5 [net-_u2-pad5_ ] [q1 ] u6
a6 [net-_u2-pad6_ ] [q0 ] u7
a7 [net-_u8-pad1_ ] [net-_u2-pad1_ ] u8
* Schematic Name:                             ashwini_updown_counter4bit, NgSpice Name: ashwini_updown_counter4bit
.model u2 ashwini_updown_counter4bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u1 adc_bridge(in_low=0.5 in_high=0.55 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u8 adc_bridge(in_low=0.4 in_high=1.5 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0.01e-00 60e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vout)
plot v(in)
plot v(comp)
.endc
.end
